US06352839B1
25 g of 4-(tert-butyl)benzyl bromide, 50 ml of anhydrous toluene and 3.1 g of sodium hydride in 80% suspension in oil are added to a three-necked flask which is surmounted by a condenser, followed by 21.8 g of diethyl acetamidomalonate. The mixture is heated at 110° C. for 17 h. After it has been cooled down, 15 ml of absolute ethanol, then 15 ml of 50% ethanol and then 50 ml of water are added slowly to it using a dropping funnel. The organic phase is decanted and the aqueous phase is washed with 3 times 50 ml of diethyl ether. The organic phases are combined, washed with water and then dried over sodium sulphate. Following filtration and concentration under reduced pressure, the product is crystallized in petroleum ether in order to yield 25 g of diethyl 4-(tert-butyl)benzylacetamidomalonate in the form of a white solid which melts at 80° C.

reactant | 4-(tert-butyl)benzyl bromide | 25 g | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydride | 3.1 g | [H-].[Na+]
reactant | diethyl acetamidomalonate | 21.8 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
solvent | water | 50 ml | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | diethyl 4-(tert-butyl)benzylacetamidomalonate | 25 g | C(C)(C)(C)C1=CC=C(CCC(=O)NC(C(=O)OCC)C(=O)OCC)C=C1 | C20H29NO5
